US05496805
2-Acetylthiomethyl-3-phenylpropanoic acid is reacted with oxalyl choride and the resulting acid chloride is then reacted with β-alanine, ethyl ester, hydrochloride in the presence of diisopropylethylamine as more fully described in Example 1 of European Patent Application 136,883 to give (±)-3-[[2-[(acetylthio)methyl]-1-oxo-3-phenylpropyl]amino]propanoic acid, ethyl ester.

reactant | 2-Acetylthiomethyl-3-phenylpropanoic acid | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | oxalyl choride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | β-alanine, ethyl ester, hydrochloride | Cl.NCCC(=O)OCC
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
product | (±)-3-[[2-[(acetylthio)methyl]-1-oxo-3-phenylpropyl]amino]propanoic acid, ethyl ester | C(C)(=O)SCC(C(=O)NCCC(=O)OCC)CC1=CC=CC=C1 | C17H23NO4S
